US06057369
(±)-t-Butyl (2R*,3R*)-3-(4-methoxybenzenesulfonyl)-7-phenyl-2-(2-phenoxyethyl)heptanoate (0.3 g, 0.54 mmol) is dissolved in CH2Cl2 (7 mL), cooled to 0° C. and TFA (1 mL) is added slowly. The bath is removed and the reaction is stirred for 4 hours. The reaction is concentrated in vacuo and the residue purified by reverse phase HPLC (50-100% CH3CN in 0.1% TFA/H2O) to yield (±)-(2R*,3R*)-3-(4-methoxybenzenesulfonyl)-7-phenyl-2-(2-phenoxyethyl)heptanoic acid (0.19 g, 70%). 1H NMR (300 MHz, CDCl3) δ 7.81 (d, J=8.8 Hz, 2H), 7.29-7.15 (m, 5H), 7.08 (d, J=7.3 Hz, 2H), 6.98-6.91 (m, 3H), 6.81 (d, J=8.3 Hz, 2H), 4.17-4.03 (m, 2H), 3.83 (s, 3H), 3.80-3.75 (m, 1H), 3.17-3.14 (m, 1H), 2.58-2.50 (m, 3H), 2.30-2.18 (m, 1H), 1.90-1.77 (m, 2H), 1.60-1.45 (m, 3H), 1.41-1.30 (m, 1H); MS (FAB) m/e 497 (M+H)+.

reactant | (±)-t-Butyl (2R*,3R*)-3-(4-methoxybenzenesulfonyl)-7-phenyl-2-(2-phenoxyethyl)heptanoate | 0.54 mmol, 0.3 g | COC1=CC=C(C=C1)S(=O)(=O)[C@@H]([C@@H](C(=O)OC(C)(C)C)CCOC1=CC=CC=C1)CCCCC1=CC=CC=C1 | C32H40O6S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | (±)-(2R*,3R*)-3-(4-methoxybenzenesulfonyl)-7-phenyl-2-(2-phenoxyethyl)heptanoic acid | 0.19 g, 70% | COC1=CC=C(C=C1)S(=O)(=O)[C@@H]([C@@H](C(=O)O)CCOC1=CC=CC=C1)CCCCC1=CC=CC=C1 | C28H32O6S
